US03989707
A mixture of 9.35 parts of 1-chloro-4-phenyl-4-(3-trifluoromethylphenyl)butane, 6.3 parts of 5-chloro-1-(4-piperidyl)-2-benzimidazolinone, 6.35 parts of sodium carbonate, 0.1 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed overnight with water-separator. After cooling to room temperature, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The oily residue is purified by column-chromatography over silicagel, using a mixture of trichloromethane and 5% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from 4-methyl-2-pentanone, yielding 5-chloro-1,3-dihydro-1-[1-{4-phenyl-4-[3-(trifluoromethyl)phenyl]butyl}4-piperidinyl]-2H-benzimidazol-2-one hydrate; mp. 114.9° C.

reactant | 1-chloro-4-phenyl-4-(3-trifluoromethylphenyl)butane | ClCCCC(C1=CC(=CC=C1)C(F)(F)F)C1=CC=CC=C1 | C17H16ClF3
reactant | 5-chloro-1-(4-piperidyl)-2-benzimidazolinone | ClC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C12H14ClN3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 5-chloro-1,3-dihydro-1-[1-{4-phenyl-4-[3-(trifluoromethyl)phenyl]butyl}4-piperidinyl]-2H-benzimidazol-2-one hydrate | O.ClC1=CC2=C(N(C(N2)=O)C2CCN(CC2)CCCC(C2=CC(=CC=C2)C(F)(F)F)C2=CC=CC=C2)C=C1 | InChI=1S/C29H29ClF3N3O.H2O/c30-23-11-12-27-26(19-23)34-28(37)36(27)24-13-16-35(17-14-24)15-5-10-25(20-6-2-1-3-7-20)21-8-4-9-22(18-21)29(31,32)33;/h1-4,6-9,11-12,18-19,24-25H,5,10,13-17H2,(H,34,37);1H2
